US07807709B2
C. N-((3S*,4S*)-4-Hydroxymethyl-pyrrolidin-3-ylmethyl)-N-isobutyl-benzenesulfonamide
The title compound is prepared as described above for Example 9/step H (Scheme 5) from N-[(3S*,4S*)-4-(tert-butyl-dimethyl-silanyloxymethyl)-pyrrolidin-3-ylmethyl]-N-isobutyl-benzenesulfonamide. MS (LC-MS): 327.1 [M-Boc+H]+; tR (HPLC, Waters Symmetry C18 column, 20-95% CH3CN/H2O/3.5 min, 95% CH3CN/H2O, 2 min, CH3CN and H2O containing 0.1% TFA, flow: 0.6 mL/min): 4.17 min.

reactant | N-[(3S*,4S*)-4-(tert-butyl-dimethyl-silanyloxymethyl)-pyrrolidin-3-ylmethyl]-N-isobutyl-benzenesulfonamide | C(C)(C)(C)[SiH2]OC([C@H]1[C@@H](CNC1)CN(S(=O)(=O)C1=CC=CC=C1)CC(C)C)(C)C | C22H40N2O3SSi
reactant | CH3CN H2O | CC#N.O
reactant | CH3CN | CC#N | C2H3N
solvent | H2O | O | H2O
product | N-((3S*,4S*)-4-Hydroxymethyl-pyrrolidin-3-ylmethyl)-N-isobutyl-benzenesulfonamide | OC[C@H]1[C@@H](CNC1)CN(S(=O)(=O)C1=CC=CC=C1)CC(C)C | C16H26N2O3S
